US07361677B2
(4-Benzyloxy-3-fluoro-phenyl)-methanol (CAB03017)
Sodium borohydride (500 mg, 13.2 mmol) was added to a solution of 4-benzyloxy-3-fluoro-benzaldehyde (CAB03016, 7.32 g, 31.8 mmol) in ethanol (40 mL) and THF (40 mL) at 0° C. The clear and colourless solution was allowed to warm to room temperature and stirred for 12 h at this temperature. Ethyl acetate (150 mL) and water (50 mL) were added to the solution, the organic layer was separated, washed with water (2×50 mL) and brine (50 mL), dried over sodium sulphate and concentrated under reduced pressure. The white solid residue was dissolved in dichloromethane and precipitated by addition of hexane. The white powder was filtered off and dried under high vacuum. Yield: 7.16 g (97%). 1H-NMR (400 MHz, CDCl3) δ=1.71 (s, 1H, —OH), 4.61 (s, 2H, —CH2OH), 5.15 (s, 2H), 6.97 (dd, J=8.6, 8.6 Hz, 1H), 7.02 (dd, J=8.6, 1.9 Hz, 1H), 7.13 (dd, J=11.7, 1.9 Hz, 1H), 7.30-7.46 (m, 5H). LRMS (FAB+): 91 (100), 215.1 (40), 232.1 (100, [M]+).

reactant | Sodium borohydride | 13.2 mmol, 500 mg | [BH4-].[Na+]
reactant | 4-benzyloxy-3-fluoro-benzaldehyde | 31.8 mmol, 7.32 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)F | C14H11FO2
reactant | Ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 50 mL | O | H2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (4-Benzyloxy-3-fluoro-phenyl)-methanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CO)F | C14H13FO2
